US05681959
a) 2,2-Dimethyl-N-(3-methyl-2-pyridinyl)propanamide
2-Amino-3-methylpyridine (108 g) and triethylamine (180 ml) were dissolved in tetrahydrofuran (500 ml) and the solution cooled to 0° C. in an acetone/ice bath. A solution of pivaloyl chloride (135.4 ml) in tetrahydrofuran (250 ml) was added over 70 minutes at such a rate that the temperature remained between 0° C. and 5° C. The mixture was aged at 0° C. for 15 minutes, allowed to warm to room temperature and aged for 3 hours. The reaction mixture was quenched into water (1 liter), the phases separated and the aqueous phase extracted with ethyl acetate (2×200 ml). The organic phases were combined, washed with saturated sodium bicarbonate solution (2×200 ml), brine (200 ml) and dried (sodium sulphate). The solvent was removed under reduced pressure and the solid residue flushed with hexane (100 ml). The solid was dissolved in hot hexane, filtered and allowed to crystallise. The title compound was collected by filtration, washed with hexane (200 ml) and dried (147.4 g, 76.8% yield; mp 90°-92° C.).

reactant | 2-Amino-3-methylpyridine | 108 g | NC1=NC=CC=C1C | C6H8N2
reactant | triethylamine | 180 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 135.4 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 2,2-Dimethyl-N-(3-methyl-2-pyridinyl)propanamide | 76.8% yield | CC(C(=O)NC1=NC=CC=C1C)(C)C | C11H16N2O
